US06727264B1
N-(3-{1-[3-(4-BROMOPHENYL)-3-OXOPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Procedure K (KI) and Scheme E (K2CO3) using 1-(4-bromophenyl)-3-chloro-1-propanone and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 457.1 (M+H)+.

reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(4-bromophenyl)-3-chloro-1-propanone | BrC1=CC=C(C=C1)C(CCCl)=O | C9H8BrClO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[3-(4-BROMOPHENYL)-3-OXOPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | BrC1=CC=C(C=C1)C(CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)=O | C24H29BrN2O2
